US04100026
60 g. of 4-cholesten-3-one is dissolved in 2 l. of ether and 1 ml. of hydrobromic acid in acetic acid, 37% strength. It is combined, with agitation, with a solution of 52.4 g. of bromine in 300 ml. of acetic acid. The mixture is then further stirred for 15 minutes, thereafter diluted with a small quantity of ether, and washed in succession with water, sodium bicarbonate solution, and water. After drying and evaporation, 90 g. of crude 2,6-dibromo-4-cholesten-3-one is obtained in the form of an oil.

reactant | 4-cholesten-3-one | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O | C27H44O
reactant | hydrobromic acid | Br | BrH
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 2,6-dibromo-4-cholesten-3-one | BrC1C(C=C2C(C[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(C1)C)C)Br)=O | C27H42Br2O
